US08877776B2
1.2 Preparation of 6,7-Dimethyl-4-(4-nitro-phenoxy)-quinoline
A reactor was sequentially charged with 4-chloro-6,7-dimethoxy-quinoline (8.0 kg), 4 nitrophenol (7.0 kg), 4 dimethylaminopyridine (0.9 kg), and 2,6 lutidine (40.0 kg). The reactor contents were heated to approximately 147° C. When the reaction was complete (<5% starting material remaining as determined by in process HPLC analysis, approximately 20 hours), the reactor contents were allowed to cool to approximately 25° C. Methanol (26.0 kg) was added, followed by potassium carbonate (3.0 kg) dissolved in water (50.0 kg). The reactor contents were stirred for approximately 2 hours. The resulting solid precipitate was filtered, washed with water (67.0 kg), and dried at 25° C. for approximately 12 hours to afford the title compound (4.0 kg).

reactant | 4-chloro-6,7-dimethoxy-quinoline | 8.0 kg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | nitrophenol | 7.0 kg | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | dimethylaminopyridine | 0.9 kg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 2,6 lutidine | 40.0 kg | N1=C(C=CC=C1C)C | C7H9N
reactant | potassium carbonate | 3.0 kg | C([O-])([O-])=O.[K+].[K+]
solvent | water | 50.0 kg | O | H2O
solvent | Methanol | 26.0 kg | CO | CH4O
product | 6,7-Dimethyl-4-(4-nitro-phenoxy)-quinoline | 4.0 kg | CC=1C=C2C(=CC=NC2=CC1C)OC1=CC=C(C=C1)[N+](=O)[O-] | C17H14N2O3
